US08048909B2
Methyl 2-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzoate
Methyl 2-[(4-formyl-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoate (664 mg) was dissolved in methanol (10 mL), 40% methylamine methanol solution (419 mg) was added at room temperature, and the mixture was stirred for 30 min. To the reaction mixture was added sodium borohydride (227 mg) at 0° C., the mixture was stirred for 1 hr. Water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=1:1→0:1) to give the title compound as a pale-yellow oil (yield 472 mg, 68%).

reactant | Methyl 2-[(4-formyl-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoate | 664 mg | C(=O)C=1C=C(N(C1)S(=O)(=O)C1=C(C(=O)OC)C=CC=C1)C1=CC=CC=C1 | C19H15NO5S
reactant | methylamine methanol | 419 mg | CO.CN
reactant | sodium borohydride | 227 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | Methyl 2-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzoate | yield 472 mg, 68% | CNCC=1C=C(N(C1)S(=O)(=O)C1=C(C(=O)OC)C=CC=C1)C1=CC=CC=C1 | C20H20N2O4S
